US08314100B2
d) 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-phenylpiperazine
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate (28 mg, 0.10 mmol) and 1-phenylpiperazine (24 mg, 0.15 mmol) were dissolved in tetrahydrofuran (2 ml) at room temperature and thereto DBU (23 mg, 0.15 mmol) was added. The resulting mixture was stirred at 70° C. for 7 hours and concentrated under the reduced pressure to remove the solvent, and purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 36 mg of the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 3.27 (s, 4H), 3.76 (s, 4H), 3.89 (s, 3H), 4.12 (s, 3H), 6.87-6.96 (m, 3H), 7.13 (s, 2H), 7.29-7.31 (m, 2H), 7.72-7.75 (s, 1H).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | 0.10 mmol, 28 mg | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-phenylpiperazine | 0.15 mmol, 24 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DBU | 0.15 mmol, 23 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-phenylpiperazine | 36 mg, 91% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C21H23N5O3
